US07378418B2
279F. Preparation of 7-(4-Fluorophenyl)-8-(pyridine-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 1,1′-carbonyldiimidazole (1.27 g, 7.86 mmol) in THF (20 mL) was added a suspension of 1-(5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazin-3-yl)hydrazine (442 mg, 1.57 mmol) in THF (5 mL). After addition, the reaction mixture was heated to 66° C. After 20 min., the reaction mixture was cooled to RT and the reaction mixture was then concentrated under reduced pressure. The residue was diluted with water. The resultant mixture was extracted with EtOAc (3×100 mL). The combined organic layers were washed with saturated NaCl. The organic layer was dried (Na2SO4), filtered and concentrated. The resulting residue was triturated with EtOAc-hexane to give the title compound, 7-(4-fluorophenyl)-8-(pyridine-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (440 mg, 91%) as a yellow solid. LC/MS (method A): RT=1.27 min, (M+H)+=308.

reactant | 1,1′-carbonyldiimidazole | 7.86 mmol, 1.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(5-(4-fluorophenyl)4-(pyridin-4-yl)pyridazin-3-yl)hydrazine | 1.57 mmol, 442 mg | FC1=CC=C(C=C1)C=1C(=C(N=NC1)NN)C1=CC=NC=C1 | C15H12FN5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-(4-fluorophenyl)-8-(pyridine-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 440 mg, 91% | FC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10FN5O
